US04002755
To a suspension of 2.0 g of 2-hydrazino-4-phenyl-6-chloroquinazoline in 50 ml of ethanol were added 5.5 g of ethyl orthoformate and 1 ml of concentrated sulfuric acid. The resulting mixture was stirred at room temperature for 1 hour and then 30 ml of dilute sodium bicarbonate solution was added thereto. The resulting crystals were collected by filtration and recrystallized from ethanol to give 5-phenyl-7-chloro-s-triazolo[4,3-a]quinazoline as colorless needles, m.p. 295° - 297° C.

reactant | 2-hydrazino-4-phenyl-6-chloroquinazoline | 2.0 g | N(N)C1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)Cl | C14H11ClN4
reactant | ethyl orthoformate | 5.5 g | C(OCC)([O-])[O-]
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-phenyl-7-chloro-s-triazolo[4,3-a]quinazoline | C1(=CC=CC=C1)C1=NC=2N(C3=CC=C(C=C13)Cl)C=NN2 | C15H9ClN4
